US04775692
To a solution of anhydrous diisopropylamine (11.9 g, 0.118 mol) in 100 ml of anhydrous THF was added dropwise under argon atmosphere a solution of n-butyl lithium in hexane (1.59N, 74.2 ml, 0.118 mol) with stirring at -78° C. and further stirred for 30 min. To this solution was addded dropwise a solution of methyl isobutyrate (10.0 g, 0.098 mol) in anhydrous THF (10 ml). The resulting mixture was stirred for 30 min. HMPA (7 g, 0.039 mol) and chloromethyl propyl ether (13.8 g, 0.127 mol) were added, and stirred for 30 min. The reaction mixture was allowed to warm to room temperature. To the mixture was then added an aqueous saturated solution of ammonium chloride (300 ml) cooled in an ice bath. The organic layer was washed with 30 ml of water and with 20 ml of brine, and dried over anhydrous sodium sulfate. The solvent was distilled out successively at normal pressure and then the residue was distilled in vacuo to give a colourless and transparent oil of methyl 2,2-dimethyl-4-oxaheptylate (12.6 g, 0.0724 mol, b.p. 84°-87° C./30 mmHg, yield: 73.9%). The product was assigned the structure by the following data.

reactant | diisopropylamine | 0.118 mol, 11.9 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.118 mol, 1.59N, 74.2 ml | CCCCCC | C6H14
reactant | methyl isobutyrate | 0.098 mol, 10.0 g | C(C(C)C)(=O)OC | C5H10O2
reactant | HMPA | 0.039 mol, 7 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | chloromethyl propyl ether | 0.127 mol, 13.8 g | C(CC)OCCl | C4H9ClO
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 2,2-dimethyl-4-oxaheptylate | 0.0724 mol, 12.6 g, yield: 73.9% | CCCOCC(C)(C)C(=O)OC | C9H18O3
